US05315008
The chlorination is preferably carried out by contacting a concentrated solution of MMPA in a chlorinated solvent with gaseous chlorine or with a solution of chlorine in the same solvent. Desirable concentrations of the MMPA solution are between 50 and 80%. Preferably, the flow of the solvent in the reactor is set as to obtain a holdup time (hereinafter briefly designated by HUT) in the range of 0.1 to 30 minutes, preferably 0.5 to 7 minutes, and still more preferably, 1 to 3 minutes; the MMPA flow rate is chosen so that the concentration of MMPA in the reaction mixture is in the range of 1 to 20%, preferably 2 to 10%; the chlorine flow rate is set so as to obtain a Cl2 -MMPA molar ratio comprised between 1.5 and 4.0, preferably 2.0 and 3.2; and the reaction temperature is maintained in the range of 15° to 50° C., preferably 20° to 40° C., and still more preferably, 25° to 35° C.

reactant | MMPA | CSCCC(=O)[O-]
reactant | chlorine | ClCl | Cl2
product | Cl2 MMPA | ClCl.CSCCC(=O)[O-] | InChI=1S/C4H8O2S.Cl2/c1-7-3-2-4(5)6;1-2/h2-3H2,1H3,(H,5,6);/p-1
